US07807709B2
C. (3S,4R)-3-Formyl-4-({isopropyl-[1-(3-methoxy-propyl)-3-methyl-1H-indole-6-carbonyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
The title compound is prepared analogously as described for the title compound under I in Scheme 5 from (3S,4R)-3-hydroxymethyl-4-({isopropyl-[1-(3-methoxy-propyl)-3-methyl-1H-indole-6-carbonyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester. TLC, Rf (CH2Cl2/MeOH 95:5)=0.6. tR (HPLC, C18 column, 5-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 5.11 min.

reactant | (3S,4R)-3-hydroxymethyl-4-({isopropyl-[1-(3-methoxy-propyl)-3-methyl-1H-indole-6-carbonyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(=O)C1=CC=C2C(=CN(C2=C1)CCCOC)C)C(C)C)CO | C28H43N3O5
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
reactant | CH3CN H2O | CC#N.O
reactant | CH3CN | CC#N | C2H3N
solvent | H2O | O | H2O
product | (3S,4R)-3-Formyl-4-({isopropyl-[1-(3-methoxy-propyl)-3-methyl-1H-indole-6-carbonyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(=O)C1=CC=C2C(=CN(C2=C1)CCCOC)C)C(C)C)C=O | C28H41N3O5
